US04440779
Ethyl 4-(m-chlorophenoxy)methyl-5-ethoxycarbonyl-1-methyl-α-oxopyrrole-2-acetate (7.96 g, 21 mmol) is placed in a 100 ml recovery flask and 25 ml 2.5 N aqueous sodium hydroxide (62.5 mmol) are added. The flask is heated with stirring under nitrogen to 74°. Ethanol (4 ml) is added and the solid begins to dissolve. After 15 minutes the reaction is homogeneous. After heating for one hour, the flask is cooled and 2.5 N aqueous HCl (30 ml, 75 mmol) is added slowly to precipitate the diacid. The resulting solid is filtered, washed with H2O, and then dried in vacuo to give 7.0 g of crude 4-(m-chlorophenoxy)methyl-5-hydroxycarbonyl-1-methyl-α-oxopyrrole-2-acetic acid.

reactant | Ethyl 4-(m-chlorophenoxy)methyl-5-ethoxycarbonyl-1-methyl-α-oxopyrrole-2-acetate | 21 mmol, 7.96 g | ClC=1C=C(OCC=2C=C(N(C2C(=O)OCC)C)C(C(=O)OCC)=O)C=CC1 | C19H20ClNO6
reactant | sodium hydroxide | 62.5 mmol, 2.5 N, 25 ml | [OH-].[Na+]
reactant | HCl | 75 mmol, 2.5 N, 30 ml | Cl | ClH
solvent | Ethanol | 4 ml | C(C)O | C2H6O
product | 4-(m-chlorophenoxy)methyl-5-hydroxycarbonyl-1-methyl-α-oxopyrrole-2-acetic acid | 7.0 g | ClC=1C=C(OCC=2C=C(N(C2C(=O)O)C)C(C(=O)O)=O)C=CC1 | C15H12ClNO6
